US06919315B1
At 0° C., N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (132 mg, 0.69 mmol) was added to a solution of (2E)-5-(tert-butoxycarbonylamino)-5-methylhex-2-enoic acid (168 mg, 0.69 mmol) and 1-hydroxy-7-azabenzotriazole (94 mg, 0.69 mmol) in dichloromethane (5 ml). The reaction mixture was stirred for 20 min at 0° C. A solution of (2R)-N-[(1R)-1-benzyl-2-((2S)-2-((dimethylamino)methyl)pyrrolidin-1-yl)-2-oxoethyl]-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide (345 mg, 0.69 mmol) in dichloromethane (10 ml) and N,N-dimethylformamide (5 ml) and ethyldiisopropylamine were added successively. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (70 ml) and washed with a saturated aqueous solution of sodium hydrogen carbonate (70 ml). The aqueous phase was extracted with ethyl acetate (3×50 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (40 g), using dichloromethane/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 491 mg of {(3E)-4-[N-((1R)-1-{N-[(1R)-1-benzyl-2-((2S)-2-((dimethylamino)methyl)pyrrolidin-1-yl)-2-oxoethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamoyl]-1,1-dimethylbut-3-enyl}carbamic acid tert-butyl ester.

reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.69 mmol, 132 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2E)-5-(tert-butoxycarbonylamino)-5-methylhex-2-enoic acid | 0.69 mmol, 168 mg | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | 1-hydroxy-7-azabenzotriazole | 0.69 mmol, 94 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | (2R)-N-[(1R)-1-benzyl-2-((2S)-2-((dimethylamino)methyl)pyrrolidin-1-yl)-2-oxoethyl]-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide | 0.69 mmol, 345 mg | C(C1=CC=CC=C1)[C@H](C(=O)N1[C@@H](CCC1)CN(C)C)N(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)C | C31H40N4O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | {(3E)-4-[N-((1R)-1-{N-[(1R)-1-benzyl-2-((2S)-2-((dimethylamino)methyl)pyrrolidin-1-yl)-2-oxoethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamoyl]-1,1-dimethylbut-3-enyl}carbamic acid tert-butyl ester | 491 mg | C(C)(C)(C)OC(NC(C\C=C\C(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@@H](C(=O)N1[C@@H](CCC1)CN(C)C)CC1=CC=CC=C1)=O)=O)(C)C)=O | C43H59N5O5
